US06077959
This compound was prepared in the manner of Example 6, with 1.03 grams (0.0025 mole--1.0 equiv.) of 1-(4-chloro-2-fluoro-5-iodophenyl)-4-difluoromethyl-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazole, 0.365 gram (0.0025 mole--1.0 equiv.) of ethyl 3-hydroxy-2-methylenebutanoate, 1.6 grams (0.0084 mole--3.36 equiv.) of tributylamine, and 0.062 gram (0.000029 mole--0.01 equiv.) of 5% palladium(II) on carbon as reagents. A yield of 0.52 gram of 98% pure ethyl α-acetyl-2-chloro-5-[4-(difluoromethyl)-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazol-1-yl]-4-fluorobenzenepropanoate (49.6% yield) was obtained.

reactant | 1-(4-chloro-2-fluoro-5-iodophenyl)-4-difluoromethyl-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazole | 1.03 grams | ClC1=CC(=C(C=C1I)N1N=C(N(C1=O)C(F)F)C)F | C10H6ClF3IN3O
reactant | ethyl 3-hydroxy-2-methylenebutanoate | 0.365 gram | OC(C(C(=O)OCC)=C)C | C7H12O3
reactant | tributylamine | 1.6 grams | C(CCC)N(CCCC)CCCC | C12H27N
catalyst | palladium(II) | 0.062 gram | [Pd+2]
product | ethyl α-acetyl-2-chloro-5-[4-(difluoromethyl)-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazol-1-yl]-4-fluorobenzenepropanoate | yield of 0.52 gram, 49.6% yield | C(C)(=O)C(C(=O)OCC)CC1=C(C=C(C(=C1)N1N=C(N(C1=O)C(F)F)C)F)Cl | C17H17ClF3N3O4
